US07820665B2
Step 3. N-(6-bromoimidazo[1,2-a]pyridin-2-yl)-2,2,2-trifluoroacetamide
To a 250 mL round-bottomed flask equipped with a reflux condenser was added 2-(5-bromo-2-(4-methylphenylsulfonamido)pyridin-1(2H)-yl)acetamide (10.0 g, 26.0 mmol), 1,2-dichloroethane (150 mL) and finally trifluoroacetic anhydride (18.4 mL, 130 mmol). The mixture was stirred at 60° C. for 2 h. The solution was allowed to cool to rt and concentrated. The resulting solid was taken up in DCM (300 mL) and washed with 10% NaHCO3 (2×100 mL). The aqueous washings were extracted with DCM (2×100 mL) and combined with the initial DCM solution. The combined solutions were washed with brine (100 mL), dried (Na2SO4) and concentrated to afford the title compound as a tan solid which was used without further purification (7.72 g, 96%).

reactant | 2-(5-bromo-2-(4-methylphenylsulfonamido)pyridin-1(2H)-yl)acetamide | 26.0 mmol, 10.0 g | BrC=1C=CC(N(C1)CC(=O)N)NS(=O)(=O)C1=CC=C(C=C1)C | C14H16BrN3O3S
reactant | trifluoroacetic anhydride | 130 mmol, 18.4 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | 1,2-dichloroethane | 150 mL | ClCCCl | C2H4Cl2
product | N-(6-bromoimidazo[1,2-a]pyridin-2-yl)-2,2,2-trifluoroacetamide | BrC=1C=CC=2N(C1)C=C(N2)NC(C(F)(F)F)=O | C9H5BrF3N3O
